US05422358
Preparation of 3-(R)-(+)-(1-cyano-1,1-diphenylmethyl)-1-(4-hydroxymethylphenethyl)piperidine
A mixture containing 3-(R)-(+)-(1-cyano-1,1-diphenylmethyl)piperidine (0.28 g), 4-hydroxymethylphenethyl bromide (0.22 g), anhydrous potassium carbonate (0.28 g) and acetonitrile (10 ml) was heated under reflux for 5 hours. The mixture was partitioned between dichloromethane (30 ml) and 10% aqueous potassium carbonate (20 ml), the layers separated, and the aqueous layer extracted with dichloromethane (2×20 ml). The combined dichloromethane extracts were dried (MgSO4) and concentrated in vacuo to give an oil which was purified by column chromatography on silica eluting with hexane containing dichloromethane (30% up to 70%) then dichloromethane containing methanol (0% up to 5%). The product-containing fractions were combined and concentrated in vacuo to give an oil which was crystallised from acetonitrile to give the title compound as colourless rhombs, yield 0.21 g, m.p. 110°-114° C., {α]D25 +16 2° (c 1.0, CH2Cl2).

reactant | 3-(R)-(+)-(1-cyano-1,1-diphenylmethyl)piperidine | 0.28 g | C(#N)C(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CNCCC1 | C19H20N2
reactant | 4-hydroxymethylphenethyl bromide | 0.22 g | OCC1=CC=C(CCBr)C=C1 | C9H11BrO
reactant | potassium carbonate | 0.28 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 3-(R)-(+)-(1-cyano-1,1-diphenylmethyl)-1-(4-hydroxymethylphenethyl)piperidine | C(#N)C(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CN(CCC1)CCC1=CC=C(C=C1)CO | C28H30N2O
